US09293712B2
N-([1,1′-biphenyl]-2-yl)dibenzo[b,d]furan-4-amine (9.0 g, 27.0 mmol), 4-iodoanisole (23.4 g, 100.0 mmol), potassium carbonate (13.8 g, 100.0 mmol), copper powder (1.7 g, 27.0 mmol), and 18-crown-6 ether (7.1 g, 27.0 mmol) were mixed. The resultant mixture was bubbled with nitrogen for 30 min. The mixture was then refluxed for 48 h. After cooling, the solvent was removed in vacuo and the residue was purified by flash chromatography using 25% DCM/hexane (containing 0.5% triethylamine) to yield N-([1,1′-biphenyl]-2-yl)-N-(4-methoxyphenyl)dibenzo[b,d]furan-4-amine (9.9 g, 83% yield) as a colorless oil.

reactant | N-([1,1′-biphenyl]-2-yl)dibenzo[b,d]furan-4-amine | 27.0 mmol, 9.0 g | C1(=C(C=CC=C1)NC1=CC=CC2=C1OC1=C2C=CC=C1)C1=CC=CC=C1 | C24H17NO
reactant | 4-iodoanisole | 100.0 mmol, 23.4 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | potassium carbonate | 100.0 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 ether | 27.0 mmol, 7.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
catalyst | copper | 27.0 mmol, 1.7 g | [Cu] | Cu
product | N-([1,1′-biphenyl]-2-yl)-N-(4-methoxyphenyl)dibenzo[b,d]furan-4-amine | 9.9 g, 83% yield | C1(=C(C=CC=C1)N(C1=CC=CC2=C1OC1=C2C=CC=C1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C31H23NO2
